US04518597
6-(4-Acetoxy-butoxy)-4H-3,1-benzoxazin-2-one
One hundred two grams (0.62 mol) of 6-hydroxy-4H-3,1-benzoxazin-2-one are dissolved in 1 liter of dimethylsulfoxide and mixed with 227 gm (1.64 mol) of potassium carbonate and 166 gm (0.73 mol) of 4-acetoxy-butylbromide. The reaction mixture is stirred for six hours at 50° C., and then ice water is added. The precipitate is subjected to suction filtration, washed with water, and dried.

reactant | 6-hydroxy-4H-3,1-benzoxazin-2-one | 0.62 mol, One hundred two grams | OC=1C=CC2=C(COC(N2)=O)C1 | C8H7NO3
reactant | potassium carbonate | 1.64 mol, 227 gm | C([O-])([O-])=O.[K+].[K+]
reactant | 4-acetoxy-butylbromide | 0.73 mol, 166 gm | C(C)(=O)OCCCCBr | C6H11BrO2
solvent | dimethylsulfoxide | 1 liter | CS(=O)C | C2H6OS
product | 6-(4-Acetoxy-butoxy)-4H-3,1-benzoxazin-2-one | C(C)(=O)OCCCCOC=1C=CC2=C(COC(N2)=O)C1 | C14H17NO5
